US05492905
Example 29. 3-[N-(2-hydroxyethyl)amino]-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine.
To a solution of 3-methoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine (1.0 g) in methanol (20 mL) was added ethanolamine (0.36 g). The mixture was heated to reflux until a precipitate formed. The reaction mixture was cooled to room temperature, filtered, and the resulting solid was recrystallized from ethanol to give the title compound (0.72 g); mp 207° C.; NMR: 5.91 (s,1); MS(EI): m/z=232(M). Analysis for C12H12N2O3 ·0.2 H2O: Calculated: C, 61.11; H, 5.30; N, 11.88; Found: C, 61.13; H, 5.20; N, 11.72.

reactant | 3-methoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 1.0 g | COC1=CC(C2=C(NC1=O)C=CC=C2)=O | C11H9NO3
reactant | ethanolamine | 0.36 g | C(O)CN | C2H7NO
solvent | methanol | 20 mL | CO | CH4O
product | 3-[N-(2-hydroxyethyl)amino]-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 0.72 g | OCCNC1=CC(C2=C(NC1=O)C=CC=C2)=O | C12H12N2O3
